US07790770B2
To a solution of (R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethanamine (31 mg, 0.07 mmol), prepared as described in Procedure 3, 4, 5 and 6, in DCM (1 mL) was added (9H-fluoren-9-yl)methyl 1-amino-4,4,4-trifluoro-1-oxobutan-2-ylcarbamate (31 mg, 0.08 mmol), followed by PyBrOP and iPr2NEt. The reaction mixture was stirred at rt for 72 h and concentrated. The residue was purified by preparative HPLC (Axia column, 30×100 mm, 60-100% MeOH/H2O with 0.1% TFA over 12 min, flow rate 40 mL/min, monitoring at 220 nm) to yield (9H-fluoren-9-yl)methyl 4,4,4-trifluoro-1-((R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethylamino)-1-oxobutan-2-ylcarbamate as white solid (20 mg, 38% yield). LCMS: RT=4.5 min [M+H] 787.3 (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 4 minutes containing 0.1% TFA; 4 mL/min, monitoring at 220 nm). This diastereomer mixture was separated by Chiralpak AD column eluting with 10% MeOH/EtOH (1:1)/90% heptane with flow rate 20 mL/min. (9H-fluoren-9-yl)methyl (S)-4,4,4-trifluoro-1-((R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethylamino)-1-oxobutan-2-ylcarbamate was eluted at a retention time of 8.26 min and isolated as a white solid (10 mg). (9H-fluoren-9-yl)methyl (R)-4,4,4-trifluoro-1-((R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethylamino)-1-oxobutan-2-ylcarbamate was eluted at a retention time of 12.97 min and isolated as a white solid (10 mg). The stereochemistry of (9H-fluoren-9-yl)methyl (S)-4,4,4-trifluoro-1-((R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethylamino)-1-oxobutan-2-ylcarbamate and (9H-fluoren-9-yl)methyl (R)-4,4,4-trifluoro-1-((R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethylamino)-1-oxobutan-2-ylcarbamate was assigned arbitrarily.

reactant | (R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethanamine | 0.07 mmol, 31 mg | FC=1C=C(C=C(C1)OC(C(F)F)(F)F)[C@](CC1=CC=CC=C1)(N)C1=CC=C(C=C1)F | C22H17F6NO
reactant | (9H-fluoren-9-yl)methyl 1-amino-4,4,4-trifluoro-1-oxobutan-2-ylcarbamate | 0.08 mmol, 31 mg | NC(C(CC(F)(F)F)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O | C19H17F3N2O3
reactant | PyBrOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (9H-fluoren-9-yl)methyl 4,4,4-trifluoro-1-((R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethylamino)-1-oxobutan-2-ylcarbamate | 20 mg, 38% yield | FC(CC(C(=O)N[C@](CC1=CC=CC=C1)(C1=CC=C(C=C1)F)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)(F)F | C41H31F9N2O4
